US04382939
1,2,3,4-Tetrahydro-8-methoxy-9-nitro-3-(2-oxopropyl)-5H-[1]benzo-pyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 26 from 1,2,3,4-tetrahydro-8-methoxy-9-nitro-5H-[1]benzopyrano[3,4-c]pyridin-5-one (5.52 g, 0.02 moles) and 1-chloro-2-propanone (3.5 g, 0.038 moles). Recrystallization from methanol gave the product (5.7 g), mp 222°-225° C.

reactant | 1,2,3,4-tetrahydro-8-methoxy-9-nitro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.02 moles, 5.52 g | COC1=CC2=C(C=C1[N+](=O)[O-])C1=C(CNCC1)C(O2)=O | C13H12N2O5
reactant | 1-chloro-2-propanone | 0.038 moles, 3.5 g | ClCC(C)=O | C3H5ClO
product | 1,2,3,4-Tetrahydro-8-methoxy-9-nitro-3-(2-oxopropyl)-5H-[1]benzo-pyrano[3,4-c]pyridin-5-one | 5.7 g | COC1=CC2=C(C=C1[N+](=O)[O-])C1=C(CN(CC1)CC(C)=O)C(O2)=O | C16H16N2O6
